US07915281B2
Under a nitrogen atmosphere, 4-fluoro-N-hydroxybenzenecarboximidoyl chloride (52.0 g, 225 mmol), prepared as described in Parts A through C of Example 11, was added to a solution of 2-chloro-5,6-dimethyl-3-nitro-N-prop-2-ynylpyridin-4-amine (26.92 g, 112.3 mmol) in anhydrous dichloromethane (1 L) at room temperature. Triethylamine (25 g, 250 mmol) was added; a precipitate formed. The resulting mixture was heated at 40° C. under nitrogen for 16 hours, diluted with dichloromethane, washed sequentially with aqueous potassium carbonate, water, and brine; dried over sodium sulfate; filtered; and concentrated under reduced pressure to a suspension. The suspension was filtered to isolate a yellow solid, which was washed with diethyl ether and dried under vacuum to provide 32.45 g of 2-chloro-N-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-5,6-dimethyl-3-nitropyridin-4-amine.

reactant | 4-fluoro-N-hydroxybenzenecarboximidoyl chloride | 225 mmol, 52.0 g | FC1=CC=C(C=C1)C(=NO)Cl | C7H5ClFNO
reactant | 2-chloro-5,6-dimethyl-3-nitro-N-prop-2-ynylpyridin-4-amine | 112.3 mmol, 26.92 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCC#C)C)C | C10H10ClN3O2
reactant | Triethylamine | 250 mmol, 25 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | 2-chloro-N-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-5,6-dimethyl-3-nitropyridin-4-amine | 32.45 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCC1=CC(=NO1)C1=CC=C(C=C1)F)C)C | C17H14ClFN4O3
